US03976824
The procedure described in Reference Example 1 was repeated except that 49.7 g. of acrylamide, 55.8 g. of dimethylaminoethyl methacrylate and 40.0 g. of 35 % sulfuric acid were employed to give an aqueous solution of acrylamide-dimethylaminoethyl methacrylate copolymer (70 : 30 by mole) having a concentration of 10 %, a pH of 7.3 and a viscosity of 3,000 cP at 25°C. To 680 g. of the solution were added 86 g. of 10 % aqueous solution of polyethyleneimine having a degree of polymerization of 1,500 and 81.4 g. of epichlorohydrin and the resultant was subjected to reaction at pH 10.0 at 80°C. for 2 hours. The reaction mixture was diluted with water and adjusted to pH 5.0 with sulfuric acid to give an aqueous solution of cationic thermosetting resin having a concentration of 10.3 % and a viscosity of 500 cP at 25°C.

reactant | acrylamide | C(C=C)(=O)N | C3H5NO
reactant | dimethylaminoethyl methacrylate | C(C(=C)C)(=O)OCCN(C)C | C8H15NO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | acrylamide dimethylaminoethyl methacrylate | C(C=C)(=O)N.C(C(=C)C)(=O)OCCN(C)C | InChI=1S/C8H15NO2.C3H5NO/c1-7(2)8(10)11-6-5-9(3)4;1-2-3(4)5/h1,5-6H2,2-4H3;2H,1H2,(H2,4,5)
